* Comparator

.include ../../models/ptm_130_aimspice.spi

V1 VDD 0 dc 1.5
V2 VSS 0 dc 0
V3 VSTORE 0 dc 0.6
V4 VRAMP VSTORE dc 0

mp1 VP VP VDD VDD pmos w=0.5u l=0.5u
mp2 VO VP VDD VDD pmos w=0.5u l=0.5u

mn1 VO VSTORE VS VS nmos w=0.5u l=0.15u
mn2 VP VRAMP VS VS nmos w=0.5u l=0.15u

I3 VS 0 dc 1u

mp3 VO2 VO VDD VDD pmos w=0.5u l=0.5u
I4 VO2 0 dc 1u
*INVERTER
mp4 VCMP_OUT VO2 VDD VDD pmos w=0.5u l=0.5u
mn4 VCMP_OUT VO2 VSS VSS nmos w=0.5u l=0.15u

.dc V4 -100m 100m 1m
.op
.plot v(vstore) v(vramp) v(vp) v(vcmp_out) v(vs) v(vo2)


